### PR TITLE
Add Erdős Problem 559 (linear size Ramsey numbers of bounded-degree graphs), link the formal proof

### LINKED ISSUE #6347: Erdős Problem 559
### What is the Erdős problem?

https://www.erdosproblems.com/559

Let $\hat{R}(G)$ denote the size Ramsey number, the minimal number of edges $m$ such that there is a graph $H$ with $m$ edges that is Ramsey for $G$. If $G$ has $n$ vertices and maximum degree $d$ then prove that $\hat{R}(G)\ll_d n$.

Status: disproved for $d=3$ by Rödl–Szemerédi [RoSz00]. A formal proof exists in plby/lean-proofs (`Erdos559.not_erdos_559`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6347.

### What changed
Adds `FormalConjectures/ErdosProblems/559.lean`, using the existing `SimpleGraph.sizeRamsey`:
- `erdos_559` (`research solved`, `answer(False)`): `R̂(G) ≪_d n` for graphs of maximum degree `d` is false (Rödl–Szemerédi [RoSz00]).
- `variants.degree_three`: it already fails for `d = 3`.

Both linked to plby/lean-proofs `Erdos559.not_erdos_559` / `erdos_559_fixed_degree_three` (Codex and GPT-5.6 Sol; 2 Mathlib-only files).
- Sorry'd literature variants: the Rödl–Szemerédi `n (log n)^c` and Tikhomirov `n exp(c√log n)` lower bounds, Friedman–Pippenger's linear bound for trees, and the Draganić–Petrova `n^{3/2+o(1)}` upper bound.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos559.not_erdos_559` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (`sizeRamsey` as `sInf` vs plby's `Nat.find`; real vs natural constants):

<details>
<summary>Bridge</summary>

```lean
open Filter Real SimpleGraph

namespace Bridge559

lemma sizeRamsey_eq {W : Type*} [Fintype W] (G : SimpleGraph W) :
    sizeRamsey G G = Erdos559Plby.sizeRamseyNumber G := by
  unfold sizeRamsey Erdos559Plby.sizeRamseyNumber
  have hS : {m | ∃ (n : ℕ) (F : SimpleGraph (Fin n)), F.edgeSet.ncard = m ∧
      ∀ R : SimpleGraph (Fin n), R ≤ F → G.IsContained R ∨ G.IsContained (F \ R)} =
      {m | Erdos559Plby.HasRamseyHostWithEdges G m} := by
    ext m
    simp only [Set.mem_ofPred_eq, Erdos559Plby.HasRamseyHostWithEdges, Erdos559Plby.IsRamseyFor,
      Erdos559Plby.edgeCount, Nat.card_coe_set_eq]
    constructor
    · rintro ⟨n, F, hm, hF⟩
      exact ⟨n, F, hF, hm⟩
    · rintro ⟨n, F, hF, hm⟩
      exact ⟨n, F, hm, hF⟩
  rw [hS, Nat.sInf_def ⟨_, Erdos559Plby.ramseyHostEdgeCount_exists G |>.choose_spec⟩]

open scoped Classical in
/-- From a real linear bound to plby's natural-number one. -/
lemma fixedDegree_of {d : ℕ} {C : ℝ}
    (h : ∀ (V : Type) [Fintype V] (G : SimpleGraph V),
      G.maxDegree ≤ d → (sizeRamsey G G : ℝ) ≤ C * Fintype.card V) :
    Erdos559Plby.FixedDegreeLinearSizeRamsey d := by
  refine ⟨⌈C⌉₊, fun V _ G hG => ?_⟩
  have h1 := h V G (by convert hG)
  rw [sizeRamsey_eq] at h1
  have h2 : (Erdos559Plby.sizeRamseyNumber G : ℝ) ≤ (⌈C⌉₊ : ℝ) * Fintype.card V :=
    h1.trans (mul_le_mul_of_nonneg_right (Nat.le_ceil C) (by positivity))
  exact_mod_cast h2

theorem erdos_559_bridge : type_of% Erdos559.erdos_559 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  apply Erdos559Plby.not_erdos_559
  intro d
  obtain ⟨C, hC⟩ := h d
  exact fixedDegree_of hC

theorem degree_three : type_of% Erdos559.erdos_559.variants.degree_three := by
  rintro ⟨C, hC⟩
  exact Erdos559Plby.erdos_559_fixed_degree_three (fixedDegree_of hC)

#print axioms Erdos559Plby.not_erdos_559
#print axioms erdos_559_bridge
#print axioms degree_three

end Bridge559
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«559»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/559.lean [hunk 1]
```diff
@@ -0,0 +1,108 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/559.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]

**Review by mo271 — APPROVED** [review]
